US07674802B2
(1-{3-[4-(3-Chloro-indazol-2-yl)-phenoxy]-propyl}-piperidin-4-yl)-methanol:
To a solution of methyl 1-{3-[4-(3-chloro-indazol-2-yl)-phenoxy]-propyl}-piperidine-4-carboxylate (0.1 g, 0.21 mmol) in THF (10 mL) was added NaBH4 (23 mg, 0.63 mmol) at 0° C. in portions. The reaction mixture was stirred at room temperature for 4 h. After it was quenched with water, the mixture was extracted with ethyl acetate, washed with brine and water, dried over Na2SO4 and concentrated in vacuo. The crude product was purified by a column chromatography on silica gel eluting with 20% ethyl acetate in hexane to the title compound (0.43 g 50%). 1H NMR (400 MHz, CDCl3) δ 7.71(d, J=8.8 Hz, 1H), 7.59-7.56 (m, 3H), 7.37-7.33 (m, 1H), 7.17-7.14 (m, 2H), 7.04 (d, J=8.8 Hz, 2H), 4.10 (t, J=6 Hz, 2H), 3.22 (m, 2H), 3.01 (br d, J=12 Hz, 1H), 2.54 (t, J=6 Hz, 2H), 2.10-1.73 (m, 9H).

reactant | methyl 1-{3-[4-(3-chloro-indazol-2-yl)-phenoxy]-propyl}-piperidine-4-carboxylate | 0.21 mmol, 0.1 g | ClC=1N(N=C2C=CC=CC12)C1=CC=C(OCCCN2CCC(CC2)C(=O)OC)C=C1 | C23H26ClN3O3
reactant | NaBH4 | 0.63 mmol, 23 mg | [BH4-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (1-{3-[4-(3-Chloro-indazol-2-yl)-phenoxy]-propyl}-piperidin-4-yl)-methanol | ClC=1N(N=C2C=CC=CC12)C1=CC=C(OCCCN2CCC(CC2)CO)C=C1 | C22H26ClN3O2
